US04959363
(a) 4-(3-Fluoro-4-methylphenyl)-1-trimethylacetyl-1,4-dihydropyridine
To a solution of 45 ml pyridine in 800 ml tetrahydrofuran (THF) was added dropwise 50 ml trimethylacetyl chloride. The mixture was stirred 3 hrs. at room temperature, 4.0 g cuprous iodide was added, and the mixture stirred for 1 hr. longer. The mixture was then cooled to -40° C. and a Grignard reagent prepared from 45 ml 2-fluoro-4-chlorotoluene and 10 g magnesium in 300 ml THF was added dropwise The reaction mixture was stirred overnight at room temperature, ammonium chloride solution added, and the product was extracted and isolated to give 90 g of an oil used directly in the next reaction.

reactant | trimethylacetyl chloride | 50 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-fluoro-4-chlorotoluene | 45 ml | FC1=C(C=CC(=C1)Cl)C | C7H6ClF
reactant | magnesium | 10 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-Fluoro-4-methylphenyl)-1-trimethylacetyl-1,4-dihydropyridine | 90 g | FC=1C=C(C=CC1C)C1C=CN(C=C1)C(C(C)(C)C)=O | C17H20FNO
